US08603975B2
To a stirred mixture of (2R)-1-aminopropan-2-ol (1.2 g) and di-tert-butyl dicarbonate (3.7 g) in THF (24 ml) was added TEA (3.3 ml), and the whole was stirred for overnight. Water was added to the mixture, and the whole was made acidic with citric acid. The whole was extracted with EtOAc, and the extract was washed with water, NaHCO3, water and brine and dried over MgSO4. Concentration under reduced pressure gave tert-butyl [(2R)-2-hydroxypropyl]carbamate (2.7 g).

reactant | (2R)-1-aminopropan-2-ol | 1.2 g | NC[C@@H](C)O | C3H9NO
reactant | di-tert-butyl dicarbonate | 3.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 24 ml | C1CCOC1 | C4H8O
product | tert-butyl [(2R)-2-hydroxypropyl]carbamate | 2.7 g | O[C@@H](CNC(OC(C)(C)C)=O)C | C8H17NO3
